US08466282B2
tert-Butyl (3S,5R)-3-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (5.85 g) was dissolved in methanol (20 ml), 4M hydrogen chloride-ethyl acetate (20 ml) was added, and the mixture was stirred at room temperature for 15 hr. The reaction mixture was concentrated, and the residue was diluted with aqueous sodium bicarbonate, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to basic silica gel column chromatography, and a fraction eluted with ethyl acetate-methanol (9:1) was concentrated under reduced pressure to give 1-(4-methoxybutyl)-N-(2-methylpropyl)-N-[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]-1H-benzimidazole-2-carboxamide (4.40 g). The obtained 1-(4-methoxybutyl)-N-(2-methylpropyl)-N-[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]-1H-benzimidazole-2-carboxamide (2.20 g) was dissolved in ethyl acetate (20 ml), 4M hydrogen chloride-ethyl acetate (5 ml) and methanol (20 ml) were added, and the mixture was stirred at room temperature for 5 min. The reaction mixture was concentrated under reduced pressure to give the object product (2.52 g).

reactant | tert-Butyl (3S,5R)-3-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 5.85 g | COCCCCN1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CN(C[C@@H](C2)C(=O)N2CCOCC2)C(=O)OC(C)(C)C)CC(C)C | C32H49N5O6
reactant | hydrogen chloride-ethyl acetate | 4M, 20 ml | C(C)(=O)OCC.Cl
solvent | methanol | 20 ml | CO | CH4O
product | 1-(4-methoxybutyl)-N-(2-methylpropyl)-N-[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]-1H-benzimidazole-2-carboxamide | 4.40 g | COCCCCN1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CNC[C@@H](C2)C(=O)N2CCOCC2)CC(C)C | C27H41N5O4
